US07163954B2
A mixture of [1-bromo-6-(3-pentanoyl-benzo[b]thiophen-2-yl)-naphthalen-2-yloxy]-acetic acid ethyl ester (0.0932 g, 0.177 mmol) and potassium hydroxide (0.063 gm 1.1 mmol) in THF (5 mL) and water (5 mL) was stirred at ambient temperature for two hours. It was then poured in excess water and acidified with 2N hydrochloric acid. This was then extracted with ethyl acetate and washed with water and brine. The organic phase was dried with anhydrous magnesium sulfate, filtered, solvent evaporated and dried in vacuo at 64° C. for 25 hours to yield [1-bromo-6-(3-pentanoyl-benzo[b]thiophen-2-yl)-naphthalen-2-yloxy]-acetic acid as a light yellow solid (0.0662 g, 75.2%): MP: 164–5° C.; mass spectrum (+EI, [M+H]+) m/z 497/499. 1H NMR (500 MHz, DMSO-d6): δ13.0–13.2 (br, 1H), 8.24 (d, 1H, J=8.70 Hz), 8.07–8.13 (m, 3H), 7.95–7.97 (m, 1H), 7.76 (dd, 1H, J=8.78 Hz and 1.91 Hz), 7.45–7.51 (m, 3H), 5.02 (s, 2H), 2.42 (t, 2H, J=7.22 Hz), 1.40–1.46 (m, 2H), 0.97–1.04 (m, 2H), 0.58 ppm (t, 3H, J=7.41 Hz). Elemental Analysis for C25H21BrO4S: Calcd: C, 60.37; H, 4.26; N, 0.00; Found: C, 60.23; H, 4.35; N, 0.00.

reactant | [1-bromo-6-(3-pentanoyl-benzo[b]thiophen-2-yl)-naphthalen-2-yloxy]-acetic acid ethyl ester | 0.177 mmol, 0.0932 g | C(C)OC(COC1=C(C2=CC=C(C=C2C=C1)C1=C(C2=C(S1)C=CC=C2)C(CCCC)=O)Br)=O | C27H25BrO4S
reactant | potassium hydroxide | 1.1 mmol, 0.063 gm | [OH-].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | [1-bromo-6-(3-pentanoyl-benzo[b]thiophen-2-yl)-naphthalen-2-yloxy]-acetic acid | 0.0662 g, 75.2% | BrC1=C(C=CC2=CC(=CC=C12)C1=C(C2=C(S1)C=CC=C2)C(CCCC)=O)OCC(=O)O | C25H21BrO4S
